US07291643B2
N-(4-Bromophenyl)-3-chloropropane-1-sulfonamide (1.0 g, 3.2 mmol) was dissolved in DMF, Cs2CO3 (1.56 g, 4.8 mmol) was added, and the mixture was stirred for 3 hours. The mixture was then diluted with ether, washed with water, 2N HCl, brine, dried over MgSO4, and concentrated. The crude product was purified via Isco chromatography (the Redisep® column, silica, gradient 5-60% ethyl acetate in hexane) to afford 0.65 g (74%) 2-(4-bromophenyl)isothiazolidine 1,1-dioxide.

reactant | N-(4-Bromophenyl)-3-chloropropane-1-sulfonamide | 3.2 mmol, 1.0 g | BrC1=CC=C(C=C1)NS(=O)(=O)CCCCl | C9H11BrClNO2S
reactant | Cs2CO3 | 4.8 mmol, 1.56 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 2-(4-bromophenyl)isothiazolidine 1,1-dioxide | 0.65 g, 74% | BrC1=CC=C(C=C1)N1S(CCC1)(=O)=O | C9H10BrNO2S
